US07202363B2
N-{4-[4-amino-7-(5-{[[3-(dimethylamino)propyl](methyl)amino]methyl}-2-furyl)thieno[3,2-c]pyridin-3-yl]-2-methoxyphenyl}-1-methyl-1H-indole-2-carboxamide
The title compound was prepared using N-{4-[4-amino-7-(5-formyl-2-furyl)thieno[3,2-c]pyridin-3-yl]-2-methoxyphenyl}-1-methyl-1H-indole-2-carboxamide, N,N,N′-trimethylpropane-1,3-diamine and the procedure described in General Procedure B. 1H NMR (DMSO-d6, 400 MHz) δ 9.53 (s, 1H), 8.31 (s, 1H), 8.01 (d, 1H), 7.71 (d, 1H), 6.67 (s, 1H), 7.59 (d, 1H), 7.36 (s, 1H), 7.32 (m, 1H), 7.22 (s, 1H), 7.15 (m, 1H), 7.11 (m, 1H), 6.80 (m, 1H), 6.49 (m, 1H), 5.63 (br, 2H), 4.04 (s, 3H), 3.92 (s, 3H), 3.66 (s, 2H), 2.43 (m, 2H), 2.35 (s, 6H), 2.26 (s, 3H), 2.19 (m, 2H), 1.96 (m, 2H); MS: (M−H)− 621.

reactant | N-{4-[4-amino-7-(5-formyl-2-furyl)thieno[3,2-c]pyridin-3-yl]-2-methoxyphenyl}-1-methyl-1H-indole-2-carboxamide | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C=2OC(=CC2)C=O | C29H22N4O4S
reactant | N,N,N′-trimethylpropane-1,3-diamine | CN(CCCNC)C | C6H16N2
product | N-{4-[4-amino-7-(5-{[[3-(dimethylamino)propyl](methyl)amino]methyl}-2-furyl)thieno[3,2-c]pyridin-3-yl]-2-methoxyphenyl}-1-methyl-1H-indole-2-carboxamide | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C=2OC(=CC2)CN(C)CCCN(C)C | C35H38N6O3S
